US08198456B2
To a solution of 4-methyl-5-nitro-2-pyridinamine (12 g, 78.35 mmol) in diiodomethane (100 mL) was added isoamyl nitrite (22 mL, 160.4 mmol) at rt. After stirring for 30 min, the reaction was kept at 80° C. for 2 hr. The reaction was cooled and concentrated; but most of the diiodomethane remained. The crude mixture was loaded into column directly and eluted with 10% of EtOAc in hexane, and 2-iodo-4-methyl-5-nitropyridine (5.7 g, 28%) was obtained as a yellow solid after the removal of solvents under reduced pressure.

reactant | 4-methyl-5-nitro-2-pyridinamine | 78.35 mmol, 12 g | CC1=CC(=NC=C1[N+](=O)[O-])N | C6H7N3O2
reactant | isoamyl nitrite | 160.4 mmol, 22 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | diiodomethane | 100 mL | ICI | CH2I2
product | 2-iodo-4-methyl-5-nitropyridine | 5.7 g, 28% | IC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5IN2O2
